US07199243B2
A mixture of (R)-3-(3-ethoxycarbonyl-4-methyl-phenyl)-piperidine-1-carboxylic acid 4-trifluoromethyl-benzyl ester (2.12 g, 4.72 mmol), potassium carbonate (1.30 g, 9.43 mmol), methanol (25 mL) and water (6 mL) was heated at reflux for 3 h, cooled to room temperature and concentrated under reduced pressure. The resulting residue was taken up in water (150 mL), acidified with 1N aqueous hydrochloric acid and extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, concentrated under reduced pressure to yield 1.98 g (99%) (R)-3-(3-carboxy-4-methyl-phenyl)-piperidine-1-carboxylic acid 4-trifluoromethyl-benzyl ester as a white solid.

reactant | (R)-3-(3-ethoxycarbonyl-4-methyl-phenyl)-piperidine-1-carboxylic acid 4-trifluoromethyl-benzyl ester | 4.72 mmol, 2.12 g | FC(C1=CC=C(COC(=O)N2C[C@H](CCC2)C2=CC(=C(C=C2)C)C(=O)OCC)C=C1)(F)F | C24H26F3NO4
reactant | potassium carbonate | 9.43 mmol, 1.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 25 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | (R)-3-(3-carboxy-4-methyl-phenyl)-piperidine-1-carboxylic acid 4-trifluoromethyl-benzyl ester | 1.98 g, 99% | FC(C1=CC=C(COC(=O)N2C[C@H](CCC2)C2=CC(=C(C=C2)C)C(=O)O)C=C1)(F)F | C22H22F3NO4
